US07553969B1
(4) Synthesis of 2-((2-amino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,2,4-oxadiazol-5-yl)ethylamide
To a solution of 2-((2-tertbutoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,2,4-oxadiazol-5-yl)ethylamide (440 mg) in methylene chloride (5 ml), TFA (1 ml) was added under cooling with ice. The mixture was stirred at room temperature for 1 hour and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: methylene chloride:methanol=15:1), giving the titled compound (370 mg, 99%).

reactant | 2-((2-tertbutoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,2,4-oxadiazol-5-yl)ethylamide | 440 mg | C(C)(C)(C)C=1C=C(C=CC1O)CC(C1=NC=NO1)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O)=O | C34H46FN5O6
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-((2-amino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,2,4-oxadiazol-5-yl)ethylamide | 370 mg, 99% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C1=NC=NO1)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)N)=O)=O | C29H38FN5O4
